US03992370
At 40° C, 14.48 g. (0.075 mole) of 5H-dibenz(b,f)azepine, 0.57 g. (0.0023 mole) of benzylphenyldimethylammonium chloride, 538 g. (4.5 moles)of chloroform and 360 g. of a 33 % aqueous solution of sodium hydroxide (3.0 moles) are stirred together for 6 hours, after which time 216 g. (5.4moles) of solid sodium hydroxide and 60 g. of water are added. The mixture is stirred at 40° C for 16 hours and the resulting solution is extracted with chloroform. The chloroform extract is washed with water anddried with anhydrous sodium sulfate, followed by distillation of the solvent to dry up under reduced pressure. The residue is then recrystallized from benzene to give 1,1-dichloro-1a,10b-dihydrodibenzo(b,f)cycloprop(d)azepine-6(1H)-carboxaldehyde in a yield of 77.5 % (17.67 g.). Melting point 213° C(decomp.)

reactant | 5H-dibenz(b,f)azepine | 0.075 mole | C1=CC=CC=2NC3=C(C=CC21)C=CC=C3 | C14H11N
reactant | benzylphenyldimethylammonium chloride | 0.0023 mole | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C1=CC=CC=C1
reactant | chloroform | 4.5 moles | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | 3.0 moles | [OH-].[Na+]
solvent | water | O | H2O
product | 1,1-dichloro-1a,10b-dihydrodibenzo(b,f)cycloprop(d)azepine-6(1H)-carboxaldehyde | yield of 77.5 % | ClC1(C2C3=C(N(C4=C(C21)C=CC=C4)C=O)C=CC=C3)Cl | C16H11Cl2NO
